US09227976B2
Step 2: 2-(4-chloro-3-iodo-5-phenyl-pyrazolo[3,4-c]pyridazin-1-yl)-1-[(3R)-3-fluoropyrrolidin-1-yl]ethanone (Compound It)
Sodium hydride (60% in mineral oil, 240 mg, 6 mmol) was added to a solution of 4-chloro-3-iodo-5-phenyl-1H-pyrazolo[3,4-c]pyridazine (1.06 g, 3 mmol) and 2-chloro-1-[(3R)-3-fluoropyrrolidin-1-yl]ethanone (740 mg, 4.5 mmol) in dry DMF (20 mL) at room temperature. The reaction mixture was stirred at room temperature for 16 h. 4% LiCl aq. solution and ethyl acetate was added. The layers were separated and the aqueous was extracted with ethyl acetate. The combined organics were dried (MgSO4), filtered and concentrated in vacuo. The residue was partially purified by column chromatography (silica gel, isohexane/ethyl acetate 1:0 to 3:7). The resulting solid was dissolved in minimum CH2Cl2 and diethyl ether was added until a solid precipitated. The solid was collected by filtration to provide Compound It as a solid (846 mg).

reactant | Sodium hydride | 6 mmol, 240 mg | [H-].[Na+]
reactant | 4-chloro-3-iodo-5-phenyl-1H-pyrazolo[3,4-c]pyridazine | 3 mmol, 1.06 g | ClC1=C2C(=NN=C1C1=CC=CC=C1)NN=C2I | C11H6ClIN4
reactant | 2-chloro-1-[(3R)-3-fluoropyrrolidin-1-yl]ethanone | 4.5 mmol, 740 mg | ClCC(=O)N1C[C@@H](CC1)F | C6H9ClFNO
reactant | LiCl | [Li+].[Cl-]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-chloro-3-iodo-5-phenyl-pyrazolo[3,4-c]pyridazin-1-yl)-1-[(3R)-3-fluoropyrrolidin-1-yl]ethanone | 846 mg | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2I)CC(=O)N2C[C@@H](CC2)F | C17H14ClFIN5O
